**************************************************
* Manufacturer:           Würth Elektronik
* Kinds:                  Aluminum Electrolytic Capacitors
* Matchcode:              WCAP-AI3H
* Library Type:           Pspice
* Version:                rev25a
* Created/modified by:    Ella
* Date and Time:          9/9/2025
* Team:                   eiSos EDA Service  
* Contact:                libraries@we-online.com
**************************************************
* Copyright(C) 2025 Würth Elektronik eiSos GmbH & Co. KG
* All Rights Reserved.
**************************************************
* Disclaimer: While Würth Elektronik eiSos has made every reasonable effort to ensure the accuracy
* of the simulation models provided, Würth Elektronik eiSos does not guarantee the exemption of error on
* the simulation models, nor does Würth Elektronik eiSos guarantee that the simulation model is current.
* Würth Elektronik eiSos reserves the right to make any adjustments at any time without notice.
* Würth Elektronik eiSos expressly disclaims all implied warranties regarding this simulation model.
**************************************************
.subckt AI3H_861141483001_68uF 1 2
Rser 1 3 0.344
Lser 2 4 1.4759407699E-08
C1 3 4 0.000068
Rpar 3 4 857485.851483451
.ends AI3H_861141483001_68uF
*******
.subckt AI3H_861141483002_82uF 1 2
Rser 1 3 0.306
Lser 2 4 1.3728290245E-08
C1 3 4 0.000082
Rpar 3 4 780870.410217256
.ends AI3H_861141483002_82uF
*******
.subckt AI3H_861141483003_100uF 1 2
Rser 1 3 0.242
Lser 2 4 1.3346323523E-08
C1 3 4 0.0001
Rpar 3 4 707102.451288498
.ends AI3H_861141483003_100uF
*******
.subckt AI3H_861140783006_2R2mF 1 2
Rser 1 3 0.0256230550864
Lser 2 4 2.7194189038E-08
C1 3 4 0.0022
Rpar 3 4 56407.6392059953
.ends AI3H_861140783006_2R2mF
*******
.subckt AI3H_861141483004_120uF 1 2
Rser 1 3 0.238
Lser 2 4 1.2778717242E-08
C1 3 4 0.00012
Rpar 3 4 645494.448747741
.ends AI3H_861141483004_120uF
*******
.subckt AI3H_861141483005_150uF 1 2
Rser 1 3 0.182
Lser 2 4 1.2725375613E-08
C1 3 4 0.00015
Rpar 3 4 577352.390238896
.ends AI3H_861141483005_150uF
*******
.subckt AI3H_861141483006_180uF 1 2
Rser 1 3 0.158
Lser 2 4 1.2711408298E-08
C1 3 4 0.00018
Rpar 3 4 527049.343530762
.ends AI3H_861141483006_180uF
*******
.subckt AI3H_861141483007_220uF 1 2
Rser 1 3 0.139
Lser 2 4 1.295154206E-08
C1 3 4 0.00022
Rpar 3 4 476730.266015488
.ends AI3H_861141483007_220uF
*******
.subckt AI3H_861141484008_82uF 1 2
Rser 1 3 0.303
Lser 2 4 1.4951795627E-08
C1 3 4 0.000082
Rpar 3 4 780870.410217256
.ends AI3H_861141484008_82uF
*******
.subckt AI3H_861141484009_100uF 1 2
Rser 1 3 0.274
Lser 2 4 1.4932425828E-08
C1 3 4 0.0001
Rpar 3 4 707102.451288498
.ends AI3H_861141484009_100uF
*******
.subckt AI3H_861141484010_120uF 1 2
Rser 1 3 0.244
Lser 2 4 1.4639549587E-08
C1 3 4 0.00012
Rpar 3 4 645494.448747741
.ends AI3H_861141484010_120uF
*******
.subckt AI3H_861141084008_470uF 1 2
Rser 1 3 0.135221660912
Lser 2 4 2.1539930535E-08
C1 3 4 0.00047
Rpar 3 4 217443.301659092
.ends AI3H_861141084008_470uF
*******
.subckt AI3H_861141484011_150uF 1 2
Rser 1 3 0.195
Lser 2 4 1.3995867639E-08
C1 3 4 0.00015
Rpar 3 4 577352.390238896
.ends AI3H_861141484011_150uF
*******
.subckt AI3H_861140784012_3R3mF 1 2
Rser 1 3 0.0218909214992
Lser 2 4 3.4460218311E-08
C1 3 4 0.0033
Rpar 3 4 46056.671637863
.ends AI3H_861140784012_3R3mF
*******
.subckt AI3H_861141484012_180uF 1 2
Rser 1 3 0.178
Lser 2 4 1.3987619065E-08
C1 3 4 0.00018
Rpar 3 4 527049.343530762
.ends AI3H_861141484012_180uF
*******
.subckt AI3H_861141484013_220uF 1 2
Rser 1 3 0.12
Lser 2 4 7.78902235300046E-09
C1 3 4 0.00022
Rpar 3 4 476730.266015488
.ends AI3H_861141484013_220uF
*******
.subckt AI3H_861140884001_2R2mF 1 2
Rser 1 3 0.025
Lser 2 4 0.000000018
C1 3 4 0.0022
Rpar 3 4 71067.144237876
.ends AI3H_861140884001_2R2mF
*******
.subckt AI3H_861141485014_120uF 1 2
Rser 1 3 0.24
Lser 2 4 1.6161837516E-08
C1 3 4 0.00012
Rpar 3 4 645494.448747741
.ends AI3H_861141485014_120uF
*******
.subckt AI3H_861141485015_150uF 1 2
Rser 1 3 0.197
Lser 2 4 2.38128565238662E-08
C1 3 4 0.00015
Rpar 3 4 577352.390238896
.ends AI3H_861141485015_150uF
*******
.subckt AI3H_861141485016_180uF 1 2
Rser 1 3 0.205
Lser 2 4 2.22199104543036E-08
C1 3 4 0.00018
Rpar 3 4 527049.343530762
.ends AI3H_861141485016_180uF
*******
.subckt AI3H_861141085015_680uF 1 2
Rser 1 3 0.0927957627927
Lser 2 4 2.5557844115E-08
C1 3 4 0.00068
Rpar 3 4 180774.619243458
.ends AI3H_861141085015_680uF
*******
.subckt AI3H_861141485017_220uF 1 2
Rser 1 3 0.154
Lser 2 4 8.82171732329988E-09
C1 3 4 0.00022
Rpar 3 4 476730.266015488
.ends AI3H_861141485017_220uF
*******
.subckt AI3H_861141085021_1mF 1 2
Rser 1 3 0.0611790824989
Lser 2 4 1.9554137513E-08
C1 3 4 0.001
Rpar 3 4 149071.285888912
.ends AI3H_861141085021_1mF
*******
.subckt AI3H_861141485018_270uF 1 2
Rser 1 3 0.126
Lser 2 4 1.10487045727914E-08
C1 3 4 0.00027
Rpar 3 4 430329.632498494
.ends AI3H_861141485018_270uF
*******
.subckt AI3H_861141485033_470uF 1 2
Rser 1 3 0.086
Lser 2 4 0.000000008
C1 3 4 0.00047
Rpar 3 4 326086.956521739
.ends AI3H_861141485033_470uF
*******
.subckt AI3H_861141485019_330uF 1 2
Rser 1 3 0.11
Lser 2 4 9.42208107791878E-09
C1 3 4 0.00033
Rpar 3 4 389249.785912618
.ends AI3H_861141485019_330uF
*******
.subckt AI3H_861141386015_220uF 1 2
Rser 1 3 0.24492
Lser 2 4 1.2918198881E-08
C1 3 4 0.00022
Rpar 3 4 449468.503494618
.ends AI3H_861141386015_220uF
*******
.subckt AI3H_861141486020_220uF 1 2
Rser 1 3 0.142
Lser 2 4 1.3959636387E-08
C1 3 4 0.00022
Rpar 3 4 476730.266015488
.ends AI3H_861141486020_220uF
*******
.subckt AI3H_861140786018_4R7mF 1 2
Rser 1 3 0.0240773817871
Lser 2 4 2.0412184406E-08
C1 3 4 0.0047
Rpar 3 4 38592.2999173022
.ends AI3H_861140786018_4R7mF
*******
.subckt AI3H_861141486021_270uF 1 2
Rser 1 3 0.117
Lser 2 4 7.96265958601893E-09
C1 3 4 0.00027
Rpar 3 4 430329.632498494
.ends AI3H_861141486021_270uF
*******
.subckt AI3H_861141486022_330uF 1 2
Rser 1 3 0.104
Lser 2 4 2.42311788621081E-08
C1 3 4 0.00033
Rpar 3 4 389249.785912618
.ends AI3H_861141486022_330uF
*******
.subckt AI3H_861141486023_390uF 1 2
Rser 1 3 0.094
Lser 2 4 2.47745591408481E-08
C1 3 4 0.00039
Rpar 3 4 358057.893983036
.ends AI3H_861141486023_390uF
*******
.subckt AI3H_861141386025_470uF 1 2
Rser 1 3 0.13499
Lser 2 4 1.3582138314E-08
C1 3 4 0.00047
Rpar 3 4 307510.167054898
.ends AI3H_861141386025_470uF
*******
.subckt AI3H_861141486024_470uF 1 2
Rser 1 3 0.085
Lser 2 4 9.61067287881989E-09
C1 3 4 0.00047
Rpar 3 4 326164.952488639
.ends AI3H_861141486024_470uF
*******
.subckt AI3H_861140786024_10mF 1 2
Rser 1 3 0.0174796411767
Lser 2 4 2.0255215548E-08
C1 3 4 0.01
Rpar 3 4 26457.4706658044
.ends AI3H_861140786024_10mF
*******
.subckt AI3H_861141486025_560uF 1 2
Rser 1 3 0.073
Lser 2 4 1.05197206782987E-08
C1 3 4 0.00056
Rpar 3 4 298806.764985159
.ends AI3H_861141486025_560uF
*******
.subckt AI3H_861141486026_680uF 1 2
Rser 1 3 0.06
Lser 2 4 1.05528512515298E-08
C1 3 4 0.00068
Rpar 3 4 271162.745854223
.ends AI3H_861141486026_680uF
*******
.subckt AI3H_861141386028_1mF 1 2
Rser 1 3 0.128998276853
Lser 2 4 2.1197282742E-08
C1 3 4 0.001
Rpar 3 4 210818.132467574
.ends AI3H_861141386028_1mF
*******
